US06875761B2
(10-1) 3-(4-Methoxyphenyl)isoquinolin-1-one
To a solution of N-methyl-o-toluamide (4.47 g) in THF (100 ml) was added dropwise 1.6 M n-BuLi (40 ml, 2.2 equivalents) in nitrogen atmosphere at 0° C. After stirring for 2 hr, the resulting solution was cooled in a dry ice/acetone bath to −70° C., followed by the addition of anisole (4.0 g) at once. The reaction mixture was drawn out of dry ice/acetone bath, and then returned to room temperature. Three hours later, an aqueous solution of saturated ammonium chloride and ether were added thereto, which was stirred for further 1 hr. The resulting white precipitates were collected by filtration, and then washed with water, ether and n-hexane, in this order. The resulting precipitates were dried, to give the title compound (1.72 g, yield; 24%).

reactant | N-methyl-o-toluamide | 4.47 g | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
reactant | n-BuLi | 1.6 M, 40 ml, 2.2 equivalents | [Li]CCCC
reactant | anisole | 4.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(4-Methoxyphenyl)isoquinolin-1-one | 1.72 g, yield; 24% | COC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C16H13NO2
